US07531545B2
Step D: 2-[(5-Amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-3,N-dimethyl-N-phenethyl-butyramide
A solution of 3,N-dimethyl-2-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-phenethyl-butyramide (2.1 g, 1.38 mmol), 10% Pd on carbon (2 g), ethanol (75 mL) and ethyl acetate (75 mL) were shaken under a hydrogen atmosphere (50 psi). After 2 hours, the hydrogen was evacuated and the bottle was purged with nitrogen. The resulting mixture was filtered through glass fiber filter paper and the solvent evaporated under low pressure to yield a solid.

reactant | 3,N-dimethyl-2-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-phenethyl-butyramide | 1.38 mmol, 2.1 g | CC(C(C(=O)N(CCC1=CC=CC=C1)C)NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1)C | C26H30N4O4
reactant | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 2 g | [Pd] | Pd
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(5-Amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-3,N-dimethyl-N-phenethyl-butyramide | NC=1C(=CC(=NC1)OC1=CC=CC=C1)CNC(C(=O)N(CCC1=CC=CC=C1)C)C(C)C | C26H32N4O2
